US06191282B1
71d. (S)-3-Benzyloxycarbonylamino-3-phenylpropionitrile
60.5 g of ((R)-2-benzyloxycarbonylamino-2-phenylethyl)-4-methylphenylsulphonate (142.2 mmol) are dissolved in 675 ml of dimethylformamide. 13.9 g of potassium cyanide (213.3 mmol), 5.64 g of 18-crown-6 (21.33 mmol) and 520 mg of potassium iodide (3.13 mmol) are added and the mixture is stirred at 50° C. for 20 hours. The reaction solution is poured into 500 ml of ice water and this mixture is subsequently stirred at 0° C. for 5 hours. The mixture is filtered with suction and the precipitate is dissolved in ethyl acetate. The organic phase is washed three times with water, dried over magnesium sulphate and concentrated in vacuo. The residue is triturated with diethyl ether, filtered off with suction, washed with diethyl ether and dried over phosphorus pentoxide.

reactant | ((R)-2-benzyloxycarbonylamino-2-phenylethyl)-4-methylphenylsulphonate | 142.2 mmol, 60.5 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=C(C=CC(=C1)C)S(=O)(=O)[O-])C1=CC=CC=C1
reactant | potassium cyanide | 213.3 mmol, 13.9 g | [C-]#N.[K+]
reactant | 18-crown-6 | 21.33 mmol, 5.64 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium iodide | 3.13 mmol, 520 mg | [I-].[K+]
solvent | dimethylformamide | 675 ml | CN(C=O)C | C3H7NO
product | (S)-3-Benzyloxycarbonylamino-3-phenylpropionitrile | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC#N)C1=CC=CC=C1 | C17H16N2O2
